US07456211B2
To a solution of 3-hydroxymethylheptanoic acid phenylamide (0.61 g, 2.6 mmol) in THF (30 mL) under argon was added triphenylphosphine (1.36 g, 5.2 mmol). The solution was cooled to 0° C. and diethyl azodicarboxylate (0.61 mL, 3.9 mmol) was added dropwise. The reaction mixture was warmed up to rt and stirred overnight. The reaction was quenched with saturated aqueous NaHCO3 (50 mL) and extracted with dichloromethane (3×50 mL). The combined extractions were dried (Na2SO4), filtered and concentrated. The residue was purified by flash column chromatography (silica gel, ethyl acetate/hexanes 1:2) to afford 4-butyl-1-phenylpyrrolidin-2-one as a white solid (0.4 g, 72%). MS(ES) m/e 218 [M+H]+.

reactant | 3-hydroxymethylheptanoic acid phenylamide | 2.6 mmol, 0.61 g | C1(=CC=CC=C1)NC(CC(CCCC)CO)=O | C14H21NO2
reactant | triphenylphosphine | 5.2 mmol, 1.36 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 3.9 mmol, 0.61 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 4-butyl-1-phenylpyrrolidin-2-one | 0.4 g, 72% | C(CCC)C1CC(N(C1)C1=CC=CC=C1)=O | C14H19NO
